US09340546B2
Step 1: 2-isopropyl-8-(3-nitropyridin-4-yl)octahydro-1H-pyrazino[1,2-a]pyrazin-1-one
NaH (15.87 mg, 0.3967 mmol) then 2-iodopropane (73.56 mg, 43.19 μL, 0.4327 mmol) were added to a solution of 2-(3-nitro-4-pyridyl)-3,4,6,7,8,9a-hexahydro-1H-pyrazino[1,2-a]pyrazin-9-one (100 mg, 0.3606 mmol) (prepared according to a procedure similar to Step 1 of Preparation N-1) in THF (5 mL) under N2. The reaction mixture was stirred at reflux for 24 h then it was partitioned between EtOAc and a saturated bicarbonate aqueous solution. Combined organic extract was washed with brine, dried over MgSO4 and concentrated in vacuo to produce an oil that was used in next step without further purification. MS (ES+) 320.1.

reactant | NaH | 0.3967 mmol, 15.87 mg | [H-].[Na+]
reactant | 2-iodopropane | 0.4327 mmol, 43.19 μL, 73.56 mg | IC(C)C | C3H7I
reactant | 2-(3-nitro-4-pyridyl)-3,4,6,7,8,9a-hexahydro-1H-pyrazino[1,2-a]pyrazin-9-one | 0.3606 mmol, 100 mg | [N+](=O)([O-])C=1C=NC=CC1N1CC2N(CC1)CCNC2=O | C12H15N5O3
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 2-isopropyl-8-(3-nitropyridin-4-yl)octahydro-1H-pyrazino[1,2-a]pyrazin-1-one | C(C)(C)N1C(C2N(CC1)CCN(C2)C2=C(C=NC=C2)[N+](=O)[O-])=O | C15H21N5O3
